US06599902B2
2-Formyl-5-methyl-1H-pyrrole-3-carboxylic acid (3.0 g, 19.6 mmol) reacted with 1-(2-aminoethyl)pyrrolidine (2.73 mL, 21.5 mmol) to give 3.71 g (76%) of 2-formyl-5-methyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-yl-ethyl)-amide.

reactant | 2-Formyl-5-methyl-1H-pyrrole-3-carboxylic acid | 19.6 mmol, 3.0 g | C(=O)C=1NC(=CC1C(=O)O)C | C7H7NO3
reactant | 1-(2-aminoethyl)pyrrolidine | 21.5 mmol, 2.73 mL | NCCN1CCCC1 | C6H14N2
product | 2-formyl-5-methyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-yl-ethyl)-amide | 3.71 g, 76% | N1(CCCC1)CCNC(=O)C1=C(NC(=C1)C)C=O | C13H19N3O2
